US04486438
A mixture of 9.3 g of 2-amino-3-fluoro-benzoic acid and 18,6 ml of α-chloropropionyl chloride was refluxed for 3 hours and excess acid chloride was distilled off. The residue was concentrated under reduced pressure at 70° C. for 2 hours to obtain 2-(1-chloroethyl)-8-fluoro-4H-3,1-benzoxazine-4-one which was used as is for the next step.

reactant | 2-amino-3-fluoro-benzoic acid | 9.3 g | NC1=C(C(=O)O)C=CC=C1F | C7H6FNO2
reactant | α-chloropropionyl chloride | 18,6 ml | ClC(C(=O)Cl)C | C3H4Cl2O
product | 2-(1-chloroethyl)-8-fluoro-4H-3,1-benzoxazine-4-one | ClC(C)C1=NC2=C(C(O1)=O)C=CC=C2F | C10H7ClFNO2
